US08076329B2
A mixture of (3S,5S)-3,5-dimethylpiperidine, hydrochloride (2.58 g), 3-chloropropanol (1.44 mL), potassium carbonate (3.58 g) and a catalytic amount of potassium iodide in acetone (10 mL) is stirred under reflux for 24 h. Precipitate is filtrated and rinsed with acetone. Filtrate is concentrated under reduced pressure and purified by chromatography over silica gel with a gradient dichloromethane/methanol/triethylamine from 80/20/1 to 50/50/1 to give 1.9 g of (3S,5S)-1-(3-hydroxypropyl)-3,5-dimethylpiperidine as a yellow oil.

reactant | (3S,5S)-3,5-dimethylpiperidine, hydrochloride | 2.58 g | Cl.C[C@@H]1CNC[C@H](C1)C
reactant | 3-chloropropanol | 1.44 mL | ClCCCO | C3H7ClO
reactant | potassium carbonate | 3.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (3S,5S)-1-(3-hydroxypropyl)-3,5-dimethylpiperidine | 1.9 g | OCCCN1C[C@H](C[C@@H](C1)C)C | C10H21NO
